US04443443
To a solution of potassium hydroxide (2.85 g) in methanol (25 ml) was added 3-(4-phenyl-1-piperazinyl)propylamine (11.1 g) and thereto was added carbon disulfide (3.85 g) under ice cooling over a period of 10 minutes. The resulting mixture was stirred for 3 hours under ice cooling. The reaction mixture was evaporated under reduced pressure. The residual oil was dissolved in water (40 ml) and washed with diethyl ether. The washed aqueous layer was ice-cooled and thereto was added methyl iodide (7.2 g) with stirring. The resulting mixture was stirred for 2 hours under ice-cooling and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and then evaporated to give methyl N-[3-(4-phenyl-1-piperazinyl)propyl]dithiocarbamate (12.9 g), mp 75° to 79° C.

reactant | potassium hydroxide | 2.85 g | [OH-].[K+]
reactant | 3-(4-phenyl-1-piperazinyl)propylamine | 11.1 g | C1(=CC=CC=C1)N1CCN(CC1)CCCN | C13H21N3
reactant | carbon disulfide | 3.85 g | C(=S)=S | CS2
reactant | methanol | 25 ml | CO | CH4O
product | methyl N-[3-(4-phenyl-1-piperazinyl)propyl]dithiocarbamate | 12.9 g | C1(=CC=CC=C1)N1CCN(CC1)CCCNC(SC)=S | C15H23N3S2
